US06924278B2
A mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-[(1H-indol-3-yl)methyl]piperazine (0.20 g), (3S, 5S)-3,5-dimethyl-4-(4-chloro-2-butynyl)morpholine (0.11 g) and potassium carbonate (0.31 g) in N,N-dimethylformamide (4 ml) was stirred at 60° C. for 3 hours. After cooling, the solvent was removed under reduced pressure and the residue was partitioned between ethyl acetate and sodium hydrogen carbonate solution. The organic layer was separated, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel with 3% of methanol in ethyl acetate as an eluent to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[4-((3S,5S)-3,5-dimethylmorpholino)-2-butynyl]-2-[(1H-indol-3-yl)methyl]piperazine. It was dissolved in ethyl acetate and the solution was added 4N hydrogen chloride in ethyl acetate. The mixture was evaporated in vacuo and the residue was triturated with isopropyl ether to give (2R)-1-[3,5-bis-trifluoromethyl)benzoyl]-4-[4-((3S,5S)-3,5-dimethylmorpholino)-2-butynyl]-2-[(1H-indol-3-yl)methyl]piperazine dihydrochloride (0.11 g).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-[(1H-indol-3-yl)methyl]piperazine | 0.20 g | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C22H19F6N3O
reactant | (3S, 5S)-3,5-dimethyl-4-(4-chloro-2-butynyl)morpholine | 0.11 g | C[C@@H]1N([C@H](COC1)C)CC#CCCl | C10H16ClNO
reactant | potassium carbonate | 0.31 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[4-((3S,5S)-3,5-dimethylmorpholino)-2-butynyl]-2-[(1H-indol-3-yl)methyl]piperazine | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#CCN2[C@H](COC[C@@H]2C)C)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C32H34F6N4O2
